2181-02-25 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: cholecystitis
   24 Hour Events:
   - admitted for cholecystitis
   - given zosyn
   - pressure improved with IVF
   - percutaneous cholecystostomy at bedside arranged
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-2-25**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-25**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (96.9
   HR: 104 (100 - 112) bpm
   BP: 86/60(66) {83/53(60) - 108/64(74)} mmHg
   RR: 22 (20 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             6,021 mL
   PO:
             TF:
   IVF:
   2,021 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    435 mL
   Urine:
   185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  5,586 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General: Alert, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: bilateral basal rales. no wheezes, ronchi
   CV: tachy, irregular, normal S1 + S2. 2/6 SEM throughout precordium. no
   rubs, gallops
   Abdomen:  soft, non-distended, bowel sounds present.  TTP diffusely, >
   RUQ.  + murphys.  mild rebound tenderness, no guarding.
   Ext: no c/c/e.  Large right heel ulcer.
   neuro: aox2
   Labs / Radiology
   280 K/uL
   8.9 g/dL
   193 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.6 mEq/L
   47 mg/dL
   110 mEq/L
   141 mEq/L
   28.3 %
   14.1 K/uL
        [image002.jpg]
                             [**2181-2-25**]  01:40 AM
   WBC
   14.1
   Hct
   28.3
   Plt
   280
   Cr
   1.7
   Glucose
   193
   Other labs: PT / PTT / INR:15.3/30.6/1.4, ALT / AST:20/21, Alk Phos / T
   Bili:312/1.5, Amylase / Lipase:62/10, Differential-Neuts:93.7 %,
   Band:0.0 %, Lymph:4.4 %, Mono:1.7 %, Eos:0.0 %, Albumin:2.7 g/dL,
   LDH:230 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo with pancreatic CA obstructing common bile duct, s/p stent, p/w
   with abd pain and fever, found to have cholecystitis.
   .
   # cholecystitis: febrile.  Not a surgical candidate.  Sent to ICU for
   HD monitoring, resuscitation, antibiotics, and coordination of IR
   guided drain.  Hemodynamics concerning for SIRS/sepsis and fluid
   resuscitation may be limited by AS.  Thus far unable to contact son for
   consent and discussion.  Pt is DNR/DNI, but she consented to ERCP
   before and placing the drain may be one of few things that we can do
   that is relatively noninvasive.  She is now s/p percutaneous
   cholecystostomy
   - cont zosyn (no need for flagyl)
   - IVF
   - follow UOP - if decreases, place a-line for MAP
   - place central line for HD monitoring and access in case she needs
   pressors
   - f/u cultures
   - DNR/DNI
   - d/w [**Doctor Last Name 3675**], who is on for GI this weekend
   .
   # sinus tach: likely from underlying hypotension +/- SIRS/sepsis
   - IVF as above
   - treatment for infection as above
   .
   # ARF: likely [**1-22**] hypotension.  Improved to 1.7 o/n from 2.0.
   - fluid challenge as above
   .
   # DM:
   - ISS
   .
   # AS: may limit fluid resuscitation as above.
   .
   # mild hyperchloremia/low bicarb: likely [**1-22**] large amounts of NS.
   - use LR or D5W for fluid resuscitation
   - trend lytes
   .
   # heel ulcer: does not appear infected.
   - wound care
   .
   # glaucoma: cont eye drops
   .
   # FEN: NPO for possible procedure tomorrow. replete electrolytes prn.
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: peripherals, considering a-line, CVL pending UOP.
   .
   # Code: DNR/DNI
   .
   # Communication: Patient
   son: [**Name (NI) 6161**] [**Name (NI) 720**]  [**Telephone/Fax (1) 6174**], [**Telephone/Fax (1) 6162**]
   [**Location (un) 2911**] Life Care Center [**Telephone/Fax (1) 6163**]
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2181-2-25**] 12:52 AM
   20 Gauge - [**2181-2-25**] 12:52 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2181-02-26 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS DRAIN INSERTION - At [**2181-2-25**] 07:59 AM
   U/S guided perc gall bladder drain placement at bedside. See Procedure
   record.
   - Perc CCY drain placed at bedside.  Biliary fluid collected with no
   organisms on gram stain. Culture pending.
   - Hypotensive in AM on [**2-24**] with SBP's in 70's, responded to 1L NS
   - ERCP fellow aware.
   - Left message for son; no return phone call.
   - Restarted home dose of NPH in AM, with 50% reduction while NPO
   - Wound care consult pending for evaluation of right heel ulcer
   - Advanced diet to clear liquids this AM.
   History obtained from Patient
   Allergies:
   History obtained from PatientTetracycline
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-26**] 12:51 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2181-2-25**] 08:00 AM
   Fentanyl - [**2181-2-25**] 08:15 AM
   Dextrose 50% - [**2181-2-25**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2181-2-25**] 02:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-26**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 107 (102 - 112) bpm
   BP: 94/60(67) {68/36(44) - 109/66(77)} mmHg
   RR: 30 (21 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  7,917 mL
                                                                    852 mL
   PO:
             TF:
   IVF:
                                                                  3,892 mL
                                                                    852 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    440 mL
   Urine:
                                                                  1,150 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
                                                                     50 mL
   Balance:
                                                                  6,317 mL
                                                                    412 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   296 K/uL
   8.0 g/dL
   79 mg/dL
   1.4 mg/dL
   21 mEq/L
   3.8 mEq/L
   31 mg/dL
   112 mEq/L
   141 mEq/L
   25.9 %
   13.3 K/uL
        [image002.jpg]
                             [**2181-2-25**]  01:40 AM
                             [**2181-2-26**]  04:11 AM
   WBC
   14.1
   13.3
   Hct
   28.3
   25.9
   Plt
   280
   296
   Cr
   1.7
   1.4
   Glucose
   193
   79
   Other labs: PT / PTT / INR:15.3/30.6/1.4, ALT / AST:14/21, Alk Phos / T
   Bili:269/1.2, Amylase / Lipase:62/10, Differential-Neuts:93.7 %,
   Band:0.0 %, Lymph:4.4 %, Mono:1.7 %, Eos:0.0 %, Albumin:2.7 g/dL,
   LDH:230 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 CHOLECYSTITIS, ACALCULOUS
   Assessment and Plan
   [**Age over 90 **] yo with pancreatic CA obstructing common bile duct, s/p stent, p/w
   with abd pain and fever, found to have cholecystitis.
   .
   # cholecystitis: febrile.  Not a surgical candidate.  Sent to ICU for
   HD monitoring, resuscitation, antibiotics, and coordination of IR
   guided drain.  Hemodynamics concerning for SIRS/sepsis and fluid
   resuscitation may be limited by AS.  Thus far unable to contact son for
   consent and discussion.  Pt is DNR/DNI, but she consented to ERCP
   before and placing the drain may be one of few things that we can do
   that is relatively noninvasive.  She is now s/p percutaneous
   cholecystostomy
   - cont zosyn (no need for flagyl)
   - IVF
   - follow UOP - if decreases, place a-line for MAP
   - place central line for HD monitoring and access in case she needs
   pressors
   - f/u cultures
   - DNR/DNI
   - d/w [**Doctor Last Name 3675**], who is on for GI this weekend
   .
   # sinus tach: likely from underlying hypotension +/- SIRS/sepsis
   - IVF as above
   - treatment for infection as above
   .
   # ARF: likely [**1-22**] hypotension.  Improved to 1.7 o/n from 2.0.
   - fluid challenge as above
   .
   # DM:
   - ISS
   .
   # AS: may limit fluid resuscitation as above.
   .
   # mild hyperchloremia/low bicarb: likely [**1-22**] large amounts of NS.
   - use LR or D5W for fluid resuscitation
   - trend lytes
   .
   # heel ulcer: does not appear infected.
   - wound care
   .
   # glaucoma: cont eye drops
   .
   # FEN: NPO for possible procedure tomorrow. replete electrolytes prn.
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: peripherals, considering a-line, CVL pending UOP.
   .
   # Code: DNR/DNI
   .
   # Communication: Patient
   son: [**Name (NI) 6161**] [**Name (NI) 720**]  [**Telephone/Fax (1) 6174**], [**Telephone/Fax (1) 6162**]
   [**Location (un) 2911**] Life Care Center [**Telephone/Fax (1) 6163**]
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2181-2-25**] 12:52 AM
   20 Gauge - [**2181-2-25**] 12:52 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2181-2-25**] 12:52 AM
   20 Gauge - [**2181-2-25**] 12:52 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2181-02-26 11:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] y/o f with pancreatic ca and CBD obx s/p stent, p/w cholecystitis,
   perc drain placed. Hypotensive to 70s and responded to IVF. Unable to
   contact HCP. Now tolerating clears.
   24 Hour Events:
   Getting zosyn. Tolerating clears.
 PERCUTANEOUS DRAIN INSERTION - At [**2181-2-25**] 07:59 AM
   U/S guided perc gall bladder drain placement at bedside. See Procedure
   record.
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-26**] 08:31 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2181-2-25**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2181-2-25**] 02:17 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-26**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 109 (105 - 115) bpm
   BP: 95/59(67) {85/46(54) - 113/70(81)} mmHg
   RR: 26 (21 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,917 mL
                                                                  1,083 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                  3,892 mL
                                                                  1,023 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    600 mL
   Urine:
                                                                  1,150 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
                                                                     50 mL
   Balance:
                                                                  6,317 mL
                                                                    483 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: RUQ with guarding, no
   rebound
   Extremities: Right: Absent, Left: Absent, stage 3 ulcer on R foot
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   296 K/uL
   79 mg/dL
   1.4 mg/dL
   21 mEq/L
   3.8 mEq/L
   31 mg/dL
   112 mEq/L
   141 mEq/L
   25.9 %
   13.3 K/uL
        [image002.jpg]
                             [**2181-2-25**]  01:40 AM
                             [**2181-2-26**]  04:11 AM
   WBC
   14.1
   13.3
   Hct
   28.3
   25.9
   Plt
   280
   296
   Cr
   1.7
   1.4
   Glucose
   193
   79
   Other labs: PT / PTT / INR:15.3/30.6/1.4, ALT / AST:14/21, Alk Phos / T
   Bili:269/1.2, Amylase / Lipase:62/10, Differential-Neuts:93.7 %,
   Band:0.0 %, Lymph:4.4 %, Mono:1.7 %, Eos:0.0 %, Albumin:2.7 g/dL,
   LDH:230 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 CHOLECYSTITIS, ACALCULOUS
   Plan:
   1. Sepsis:
   -cont. maintenance IVF
   -keep even to 500cc pos
   -cont. zosyn, f/u cx
   -f/u ERCP recs
   2. ARF: Suspect [**1-22**] sepsis/ATN, improving with IVF
   -cont. IVF
   3. FEN: clears, advance per ERCP
   4. DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2181-2-25**] 12:52 AM
   20 Gauge - [**2181-2-25**] 12:52 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   [**Age over 90 **] yo with pancreatic CA obstructing common bile duct, s/p stent, p/w
   with abd pain and fever, found to have cholecystitis.
   Overnight, received IVFs, antibiotics, and percutaneous drainage.
   Initially hypotensive but now improved and off vasopressors but still
   mildly low
   T: 37.2   P: 109   BP: 95/40    RR: 26   Sat: 97%
   Awake, alert NAD
   Chest: CTA bilaterally
   Abd: Soft, NT ND
   Ext: no edema
   A:
   1)       Cholecystitis
 s/p perc
   2)       Septic Shock
   3)       Tachycardia
   4)       Pancreatic Cancer
   5)       Acute Renal Failure
   Plan:
   1)       Continue antibiotics
   2)       Continue to monitor in ICU until BP and heart rate normalized
   (still relative hypotension and [**Name2 (NI) 280**]) -> may need more fluid as
   dictated by perfusion endpoints (urine output, vitals, lactate)
   Time Spent: 30 minutes
   Patient critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2181-2-26**] 07:42 PM ------

2181-02-27 07:58:00 Physician Resident Progress Note
Chief Complaint: Cholecystitis, Pancreatic Cancer
   24 Hour Events:
 ULTRASOUND - At [**2181-2-26**] 06:18 PM
   - pt tolerated clears
   - KUB - unread, trying to evaluate stent placement
   - LENIs for tachycardia, tachypnea to evaluate for DVT/PE  - no DVT
   - bile cx - no polys or microorg so far
   - lactate 1.7
   - started percocet for pain
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-27**] 12:42 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea
   Gastrointestinal: Abdominal pain, Nausea, No(t) Constipation
   Genitourinary: Foley
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2181-2-27**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 105 (99 - 115) bpm
   BP: 102/60(71) {95/54(66) - 137/88(94)} mmHg
   RR: 13 (11 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,353 mL
                                                                    720 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  2,053 mL
                                                                    720 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    430 mL
   Urine:
                                                                    900 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
                                                                    100 mL
   Balance:
                                                                  1,403 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), III/VI
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, wound left heel, CDI
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   296 K/uL
   8.0 g/dL
   79 mg/dL
   1.4 mg/dL
   21 mEq/L
   3.8 mEq/L
   31 mg/dL
   112 mEq/L
   141 mEq/L
   25.9 %
   13.3 K/uL
        [image002.jpg]
                             [**2181-2-25**]  01:40 AM
                             [**2181-2-26**]  04:11 AM
   WBC
   14.1
   13.3
   Hct
   28.3
   25.9
   Plt
   280
   296
   Cr
   1.7
   1.4
   Glucose
   193
   79
   Other labs: PT / PTT / INR:15.3/30.6/1.4, ALT / AST:14/21, Alk Phos / T
   Bili:269/1.2, Amylase / Lipase:62/10, Differential-Neuts:93.7 %,
   Band:0.0 %, Lymph:4.4 %, Mono:1.7 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.7 g/dL, LDH:230 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.4
   mg/dL
   Imaging: LENI - No evidence of DVT in the lower extremities.
   KUB - report pending
   Microbiology: Bile:
   GRAM STAIN (Final [**2181-2-26**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
   Cx: pending
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 CHOLECYSTITIS, ACALCULOUS
   [**Age over 90 **] yo with pancreatic CA obstructing common bile duct, s/p stent, p/w
   with abd pain and fever, found to have cholecystitis.
   .
   # cholecystitis: febrile.  Not a surgical candidate.  Sent to ICU for
   HD monitoring, resuscitation, antibiotics, and coordination of IR
   guided drain.  Hemodynamics concerning for SIRS/sepsis and fluid
   resuscitation may be limited by AS.  Pt is DNR/DNI, but she consented
   to ERCP before and placing the drain may be one of few things that we
   can do that is relatively noninvasive.  She is now s/p percutaneous
   cholecystostomy.
   - cont zosyn (no need for flagyl)
   - s/p perc drain, f/u cx data
   - f/u ERCP recs
   - s/p fluid resuscitation, start maintenance IVF, keep even today
   - follow UOP - if decreases, place a-line for MAP
   - DNR/DNI
   - precocet for pain
   # sinus tach: likely from underlying hypotension +/- SIRS/sepsis
   - follow for now, pt is NOT on home beta blocker per records
   - IVF as above
   - treatment for infection as above
   .
   # ARF: likely [**1-22**] hypotension.  Improved to 1.4 with IVF.
   - renally dose meds
   - follow creatinine
   .
   # DM:
   - ISS
   .
   # AS: no acute issues at present
   - cautious fluid balance
   - consider TTE to evaluate function
   .
   # heel ulcer: does not appear infected.
   - wound care consult recs appreciated,
   .
   # glaucoma: cont eye drops
   .
   # FEN: Advanced to clears
   .
   # Prophylaxis: Subcutaneous heparin, PPI
   .
   # Access: peripherals, considering a-line, CVL pending UOP.
   .
   # Code: DNR/DNI
   .
   # Communication: Patient
   son: [**Name (NI) 6161**] [**Name (NI) 720**]  [**Telephone/Fax (1) 6174**], [**Telephone/Fax (1) 6162**]
   [**Location (un) 2911**] Life Care Center [**Telephone/Fax (1) 6163**]
   .
   # Disposition: ICU, may go to floor later today if vitals remain stable
   ICU Care
   Nutrition: Clears for now, advance per  Surgery recs
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2181-2-25**] 12:52 AM
   20 Gauge - [**2181-2-25**] 12:52 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor later (possibly)

2181-02-27 11:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Had HR up to 170 overnight, appeared to have atrial ectopy. Tolerated
   clears, still having some abd pain. LENIs neg.
 ULTRASOUND - At [**2181-2-26**] 06:18 PM
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-2-27**] 08:33 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-26**] 08:13 PM
   Furosemide (Lasix) - [**2181-2-27**] 08:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-27**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 97 (97 - 112) bpm
   BP: 130/68(85) {96/54(66) - 137/88(99)} mmHg
   RR: 14 (11 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,353 mL
                                                                    843 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  2,053 mL
                                                                    843 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                  1,110 mL
   Urine:
                                                                    900 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
                                                                    100 mL
   Balance:
                                                                  1,403 mL
                                                                   -267 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: RUQ with some guarding,
   no rebound
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   296 K/uL
   79 mg/dL
   1.4 mg/dL
   21 mEq/L
   3.8 mEq/L
   31 mg/dL
   112 mEq/L
   141 mEq/L
   25.9 %
   13.3 K/uL
        [image002.jpg]
                             [**2181-2-25**]  01:40 AM
                             [**2181-2-26**]  04:11 AM
   WBC
   14.1
   13.3
   Hct
   28.3
   25.9
   Plt
   280
   296
   Cr
   1.7
   1.4
   Glucose
   193
   79
   Other labs: PT / PTT / INR:15.3/30.6/1.4, ALT / AST:14/21, Alk Phos / T
   Bili:269/1.2, Amylase / Lipase:62/10, Differential-Neuts:93.7 %,
   Band:0.0 %, Lymph:4.4 %, Mono:1.7 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.7 g/dL, LDH:230 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 CHOLECYSTITIS, ACALCULOUS
   1. Cholecystitis: Now s/p cholecytostomy tube
   -sepsis resolved
   -f/u KUB
   -cont. zosyn, f/u biliary cx
   2. Atrial ectopy:
   Stable, avoid BB if asymptomatic
   LENIs neg
   3. FEN: ADAT
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2181-2-25**] 12:52 AM
   20 Gauge - [**2181-2-25**] 12:52 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   [**Age over 90 **] yo with pancreatic CA obstructing common bile duct, s/p stent, p/w
   with abd pain and fever, found to have cholecystitis.
   Overnight, blood pressure continued to remain stable, occasionally
   T: 36.2   P: 97   BP: 130/80    RR: 14   Sat: 99%
   Awake, alert NAD
   Chest: CTA bilaterally
   Abd: Soft, NT ND
   Ext: no edema
   A:
   1)       Cholecystitis
 s/p perc
   2)       Septic Shock - resolved
   3)       Tachycardia
 intermittent
   4)       Pancreatic Cancer
   5)       Acute Renal Failure
   Plan:
   1)       Continue antibiotics
   2)       [**Month (only) 51**] go to the floor given normal hemodynamics over 24 hours
   and continue to improve
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2181-2-27**] 16:32 ------